US06949648B2
3,4-Dimethyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridin-6-ol
A solution of 3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-amine (5.1 g, 29 mmol) and ethyl acetoacetate (3.8 g, 30 mmol) in acetic acid (14 mL) was stirred at 100° C. for 4 hours. The solution was cooled to room temperature and ethyl acetate was added thereto. The resulting crude crystals were collected by filtration, and recrystallized from ethanol to give the title compound (4.4 g, 62% yield).

reactant | 3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-amine | 29 mmol, 5.1 g | CC1=NN(C(=C1)N)C1=NC=CC=C1 | C9H10N4
reactant | ethyl acetoacetate | 30 mmol, 3.8 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 14 mL | C(C)(=O)O | C2H4O2
product | 3,4-Dimethyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridin-6-ol | 4.4 g, 62% yield | CC1=NN(C2=NC(=CC(=C21)C)O)C2=NC=CC=C2 | C13H12N4O
